Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
Temporary HD Line Placement ___

 
History of Present Illness:
Mr. ___ is a ___ man with h/o HTN and recently diagnosed 
metastatic renal cell carcinoma (liver mets, tumor thrombus 
extending up into IVC on warfarin, and pulmonary mets) who 
presents with worsening dyspnea, jaundice and fatigue. 

Patient reports that prior to his recent symptoms, he has not 
seen a doctor in > ___ years. He has not had any issues with his 
health previously. He believes his issues became when he 
developed constipation and decreased urine output in ___. He 
went to Urgent Care where he was diagnosed with a UTI and took a 
course of antibiotics, which helped his symptoms. He then 
established care with his current PCP. On ___, he 
developed some urgent and then urinated a very large blood clot. 
He presented to the ED where he had an ultrasound of his kidneys 
and then a CT scan, which showed metastatic cancer. He then 
established care with his oncologist, Dr. ___ from 
___. He had a biopsy of liver on ___ that showed 
cancer. He was started on low dose warfarin for his IVC 
thrombus. Dr. ___ him to an oncologic surgery at 
___ but unfortunately the patient ran into some insurance 
issues and so he was referred to Dr. ___ at ___. He 
was supposed to see Dr. ___ today in clinic but had worsening 
fatigue, dyspnea, and pain and was thus referred to the ED.

Patient reports his dyspnea is present on exertion only. He can 
climb 1 flight of stairs prior to developing dyspnea. He denies 
any orthopnea. He also reports some epigastric abdominal pain. 
He was taking tramadol at home every 6 hours but this was not 
working well for him and causing him significant constipation 
that was uncomfortable so he stopped taking it on ___. He did 
try some OTC Miralax, but did not feel as though that helped his 
constipation. He has also been taking Tylenol for the pain, 
which has not been helpful. He denies any fevers or chills or 
cough. He has had some swelling of his legs, but has not paid 
too much attention. He endorses significant decrease in appetite 
recently and nothing has been appealing. 

In the ED, initial vitals were normal. Labs notable for lactate 
of 4, cr of 1.3, Na of 129, INR of 2.5. Lactate improved to 3.3 
with 2L IVF. CTA chest and CT of the abd/pelvis significant for 
no PE, new Right sided pleural effusion, increase in pulmonary 
and liver mets, and stable tumor thrombus in the IVC. He was 
given 2L NS, 2mg IV morphine, and 4mg Zofran and admitted for 
further care.

On the floor, patient reports that his symptoms already feel 
better. His pain is improved after the morphine. He also feels 
like the IVF gave him a little more energy as he was feeling so 
tired before.
 
Past Medical History:
recently diagnosed metastatic renal cell carcinoma with mets to 
the lung, liver, and tumor invasion into IVC
HTN
 
Social History:
___
Family History:
Mother passed away from CHF at age ___. Father passed away from 
ACS at age ___. Older sister had breast cancer in her early ___ 
and passed away from it. 
 
Physical Exam:
Admission exam:
vitals: 98.9 134/67 98 18 94% RA
General: tired appearing elderly man no acute distress
HEENT: PERRL, EOMI, orpharynx is clear without any lesions
Neck: supple, no cervical or supraclavicular lymphadenopathy
CV: r/r/r, soft systolic murmur
Lungs: decreased breath sounds on the right, otherwise clear 
bilaterally
Abd: soft, nontender throughout, nomoractive bowel sounds
Ext: wwp, there is 1+ pitting edema of the right lower 
extremity, LLE is without edema
Neuro: alert and oriented, no facial droop, speech fluent
Psych: mood and affect appropriate

Discharge exam: 
Patient was pronounced dead on ___ at 2340. 

 
Pertinent Results:
Admission labs:
___ 04:28PM BLOOD WBC-8.4 RBC-5.30 Hgb-13.4* Hct-41.7 
MCV-79* MCH-25.3* MCHC-32.1 RDW-17.8* RDWSD-46.2 Plt ___
___ 04:28PM BLOOD Neuts-86* Bands-0 Lymphs-8* Monos-6 Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-7.22* AbsLymp-0.67* 
AbsMono-0.50 AbsEos-0.00* AbsBaso-0.00*
___ 04:28PM BLOOD ___ PTT-48.6* ___
___ 04:28PM BLOOD Glucose-106* UreaN-29* Creat-1.3* Na-129* 
K-5.0 Cl-92* HCO3-23 AnGap-19
___ 04:28PM BLOOD ALT-238* AST-740* AlkPhos-602* 
TotBili-8.6*
___ 04:28PM BLOOD Albumin-2.5*
___ 04:37PM BLOOD Lactate-4.0*
___ 07:27PM BLOOD Lactate-3.3*

Imaging:
___ CTA torso
IMPRESSION: 
1. No evidence of pulmonary embolism to the segmental level or 
acute aortic abnormality. 
2. Innumerable pulmonary metastases are increased from the prior 
examination. A moderate right pleural effusion and compressive 
atelectasis of the right lower lobe are new from the comparison 
study on ___. 
3. Large right renal tumor is overall grossly stable in size 
from the 
comparison examination with extension into the right renal vein 
and IVC 
appearing similar in extent. Multiple dilated venous collaterals 
adjacent to the right kidney are re-demonstrated. 
4. Hepatic metastases are increased from the prior examination, 
particularly involving the right lobe. 
5. Increased size of bilateral adrenal metastases. 
6. Persistent retroperitoneal lymphadenopathy. 

Final Labs:
___ 09:58AM BLOOD WBC-10.4* RBC-4.36* Hgb-11.2* Hct-33.4* 
MCV-77* MCH-25.7* MCHC-33.5 RDW-19.9* RDWSD-47.1* Plt Ct-99*
___ 05:46AM BLOOD ___ PTT-35.4 ___
___ 05:46AM BLOOD Glucose-77 UreaN-111* Creat-5.0*# Na-126* 
K-6.4* Cl-83* HCO3-16* AnGap-33*
___ 05:46AM BLOOD ALT-269* AST-1572* LD(LDH)-8106* 
AlkPhos-462* TotBili-14.1* DirBili-13.2* IndBili-0.9
___ 05:46AM BLOOD Calcium-7.9* Phos-8.7* Mg-3.5*
 
Brief Hospital Course:
___ recent diagnosis of metastatic renal cell carcinoma was 
referred for dyspnea, fatigue and jaundice, found to be in 
progressive renal and liver failure, trialed on palliative 
chemotherapy Sutent and received two sessions of hemodialysis 
without change in his clinical or biochemical trajectory 
(particularly with progressive encephalopathy from liver 
failure, with extensive tumor invasion of this organ), 
transitioned to comfort measures only by family/HCP on ___, 
deceased later that evening at 2340.

# Metastatic Renal Cell Carcinoma
# Decopmensated Liver Failure with Lactic Acidosis and 
Coagulopathy
# Renal Failure with Hyperkalemia, Hyponatremia and Volume 
Overload
Admission imaging showed metastatic spread of tumor through the 
lungs, liver, adrenals, and retroperitoneum. Given tumor burden, 
as well as acute biochemical disturbances, he was not thought to 
be a candidate for debulking therapy. Given rapidly worsening 
renal and liver function tests, palliative/salvage chemotherapy 
with Sutent was attempted; simultaneously, given progressive 
hyponatremia, volume overload, and hyperkalemia, he was started 
on HD for two sessions. Despite these measures, his electrolyte 
disturbances rapidly recurred after HD, and his liver functions 
continued to worsen and he developed encephalopathy. Serial 
discussions were had with the patient and family by Oncology, 
Nephrology, Palliative Care, and primary team to discuss these 
findings and his prognosis; patient and his family were very 
realistic, attempting to buy some time for him to settle his 
affairs before he passed. This was successfully done with the 
assistance of Social Work; given progressive symptoms, 
discomfort, and later impairment, he was transitioned by 
family/HCP to CMO status ___ and passed away comfortably later 
that evening.

# IVC Thrombus 
Was on Coumadin until prior to admission, stopped here for 
auto-anticoagulation from liver failure as above. INR 
temporarily reversed to facilitate HD line placement, but was 
uptrending again before patient made CMO and further lab checks 
were discontinued. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
___  MD to order daily dose PO DAILY16 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Metastatic renal cell carcinoma
Acute kidney failure
Acute liver failure
IVC thrombus

 
Discharge Condition:
Deceased. 

 
Discharge Instructions:
Mr. ___ was admitted to the hospital for jaundice, fatigue, 
and weakness. He was found to be in progressive liver and renal 
failure. Palliative oral chemotherapy was trailed as was 
hemodialysis, but his liver function continued to worsen. He was 
transitioned to CMO on ___ by his family and HCP, and passed 
away later that evening.
 
Followup Instructions:
___